US06525042B1
1-[(5-tert-Butoxycarbonyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl]methyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine
In a similar manner to Referential Example 47 except for the use of 5-tert-butoxycarbonyl-2-formyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine and 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride as the raw materials, the reaction was conducted, whereby the title compound was obtained.

reactant | 5-tert-butoxycarbonyl-2-formyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | C(C)(C)(C)OC(=O)N1CC2=C(CC1)SC(=C2)C=O | C13H17NO3S
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCNCC1
product | 1-[(5-tert-Butoxycarbonyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridin-2-yl]methyl]-4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazine | C(C)(C)(C)OC(=O)N1CC2=C(CC1)SC(=C2)CN2CCN(CC2)S(=O)(=O)C2=CC1=CC=C(C=C1C=C2)Cl | C27H32ClN3O4S2
